US04772703
(A) 1,1,1-Trifluoro-N-[2-(3-methoxyphenyl)ethyl]methanesulfonamide
A slurry of 14.1 g (0.075 mol) of 3-methoxyphenylethylamine hydrochloride1 in a solution of 15 g (0.15 mol) of triethylamine in 200 ml of methylene chloride is cooled to -40° C. A solution of 21.2 g (0.075 mol) of trifluoromethanesulfonic acid anhydride in 100 ml of methylene chloride is added from a dropping funnel and the solution is allowed to warm to room temperature. The solution is concentrated in vacuo to obtain a residue which is stirred in 50 ml of Claisen's alkali for 3 hours at room temperature. The mixture is poured into 500 ml of water, washed with 500 ml of methylene chloride and filtered through Celite. The aqueous solution is acidified to pH 3 with concentrated hydrochloric acid, and extracted twice with 500 ml of methylene chloride. The methylene chloride solution is washed with water, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain 12.5 g (59%) of an oil, MS(CI) 284 (M+H). The product is used without further purification in the subsequent step.

reactant | 3-methoxyphenylethylamine | 0.075 mol, 14.1 g | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | triethylamine | 0.15 mol, 15 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 0.075 mol, 21.2 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 500 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,1,1-Trifluoro-N-[2-(3-methoxyphenyl)ethyl]methanesulfonamide | 12.5 g, 59% | FC(S(=O)(=O)NCCC1=CC(=CC=C1)OC)(F)F | C10H12F3NO3S
